US09102614B2
Preparation of 5-methoxy-3-methyl-3,4-dihydro-2H-naphthalen-1-one:
A mixture of AlCl3 (6.4 g) and CH2Cl2 (100 mL) was cooled to 0° C. To the mixture was added 4-(2-methoxyphenyl)-3-methylbutyryl chloride (24 mmol, crude from previous reaction). The reaction was allowed to warm slowly to room temperature and then quenched by slowly pouring over ice. The mixture was extracted with dichloromethane (3×) and the combined organics were washed with 1 M HCl, water, dried over sodium sulfate, and concentrated. Purification by flash column chromatography yielded the desired product (1.65 g, 36% yield from 4-(2-methoxy-phenyl)-3-methyl-but-2-enoic acid ethyl ester). LCMS-ESr (m/z): [M+H]+ calcd for C12H15O2: 191.11. Found: 191.19.

reactant | AlCl3 | 6.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-(2-methoxyphenyl)-3-methylbutyryl chloride | 24 mmol | COC1=C(C=CC=C1)CC(CC(=O)Cl)C | C12H15ClO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-3-methyl-3,4-dihydro-2H-naphthalen-1-one | 1.65 g, 36% yield | COC1=C2CC(CC(C2=CC=C1)=O)C | C12H14O2
